US08334301B2
3-[(methylamino)methyl]-N,1-diphenyl-1H-pyrazole-5-amine dihydrochloride
tert-Butyl methyl{[1-phenyl-5-(phenylamino)-1H-pyrazol-3-yl]methyl}carbamate (90 mg) was dissolved in ethyl acetate (2 mL) and methanol (1 mL), 4 mol/L hydrogen chloride-ethyl acetate solution (2 mL) was added, and the mixture was stirred at room temperature for 3 hr. The reaction mixture was concentrated under reduced pressure, and the residue was recrystallized from a mixed solvent of ethyl acetate and ethanol to give the title compound as colorless crystals (yield 62 mg, yield 75%).

reactant | tert-Butyl methyl{[1-phenyl-5-(phenylamino)-1H-pyrazol-3-yl]methyl}carbamate | 90 mg | CN(C(OC(C)(C)C)=O)CC1=NN(C(=C1)NC1=CC=CC=C1)C1=CC=CC=C1 | C22H26N4O2
reactant | hydrogen chloride-ethyl acetate | 4 mol/L, 2 mL | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 1 mL | CO | CH4O
product | 3-[(methylamino)methyl]-N,1-diphenyl-1H-pyrazole-5-amine dihydrochloride | yield 62 mg, yield 75% | Cl.Cl.CNCC1=NN(C(=C1)NC1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C17H18N4.2ClH/c1-18-13-15-12-17(19-14-8-4-2-5-9-14)21(20-15)16-10-6-3-7-11-16;;/h2-12,18-19H,13H2,1H3;2*1H
